US04127646
To a mixture of 1.8 g. of 3,5-diaminonitrobenzene and 20 ml. of propionic acid was added 5 ml. of propionic anhydride and the resulting mixture was heated at reflux for 30 minutes. The cooled reaction mixture was poured over ice/water and stirred for one hour. Filtration gave the product 3,5-bis-propionamidonitrobenzene, m.p. 197°-198° C.

reactant | 3,5-diaminonitrobenzene | NC=1C=C(C=C(C1)N)[N+](=O)[O-] | C6H7N3O2
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 3,5-bis-propionamidonitrobenzene | C(CC)(=O)NC=1C=C(C=C(C1)NC(CC)=O)[N+](=O)[O-] | C12H15N3O4
